US09085555B2
B. 1-{[(S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carbonyl]-amino}-indolizine-3-carboxylic acid
To 1-{[(S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carbonyl]-amino}-indolizine-3-carboxylic acid benzyl ester (100 mg, 0.177 mmol) dissolved in THF (3 mL) was added Pd/C 10% (20 mg). Air was removed from the flask under vacuum and replaced with nitrogen three times, finally nitrogen was removed and replaced with hydrogen and the mixture was stirred at RT for 5 h. Hydrogen was removed and replaced by nitrogen, the catalyst was removed by filtration through a pad of Celite and washed with THF. Solvents were concentrated to give a mixture containing the desired compound contaminated with 20% of the decarboxylated analog. The mixture was used without further purification in the next step. LC/MS: 475 [M−H]−; tR (HPLC conditions a): 3.41 min.

reactant | 1-{[(S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carbonyl]-amino}-indolizine-3-carboxylic acid benzyl ester | 0.177 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)C1=CC(=C2C=CC=CN12)NC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C29H25F3N4O5
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 1-{[(S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carbonyl]-amino}-indolizine-3-carboxylic acid | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N(CCC1)C(=O)NC=1C=C(N2C=CC=CC12)C(=O)O)(F)F | C22H19F3N4O5
